US06627651B1
To cyclononanone p-toluenesulfonyl hydrazone (2.0 g) suspended in N,N,N′,N′-tetraethylenediamine (20 ml) was added dropwise at −55° C. a 1.6 M solution of n-butyllithium in hexane (16.2 ml). The resulting mixture was stirred at room temperature for 30 minutes under an argon atmosphere, was then cooled with ice, was mixed with DMF (2.5 ml) and was stirred at room temperature for one hour. The reaction mixture was poured into ice water and was extracted with ethyl acetate. The organic layer was washed with 1 N hydrochloric acid, water and an aqueous saturated solution of sodium chloride, and was then dried with anhydrous magnesium sulfate. The resulting organic layer was evaporated under reduced pressure to remove the solvent. The residue was subjected to purification using a silica gel column (ethyl acetate:hexane=1:10) to obtain cyclononene-1-carbaldehyde (0.7 g) as a light yellow oil.

reactant | cyclononanone p-toluenesulfonyl hydrazone | 2.0 g | C1(=CC=C(C=C1)S(=O)(=O)NN=C1CCCCCCCC1)C | C16H24N2O2S
reactant | n-butyllithium | C(CCC)[Li]
reactant | DMF | 2.5 ml | CN(C)C=O | C3H7NO
solvent | N,N,N′,N′-tetraethylenediamine | 20 ml | CCN(CC)CCN(CC)CC | C10H24N2
solvent | hexane | 16.2 ml | CCCCCC | C6H14
product | cyclononene-1-carbaldehyde | 0.7 g | C1(=CCCCCCCC1)C=O | C10H16O
